US07112605B2
N-Methyl-β-hydroxy-4-methyl-phenethylamine
4-Methyl styrene oxide(1.0 g, 8.0 mmol) and 3 ml of methylamine in methanolic solution(28%) were charged into a flask. The flask was sealed and put in a refrigerator for 5–7 days. The solution was concentrated and the residue crystallized from ether, the title compound was obtained as white needle crystals, mp. 90.5–93.2° C., yield 71.2%.

reactant | 4-Methyl styrene oxide | 8.0 mmol, 1.0 g | CC1=CC=C(C2CO2)C=C1 | C9H10O
reactant | methylamine | 3 ml | CN | CH5N
product | N-Methyl-β-hydroxy-4-methyl-phenethylamine | yield 71.2% | CNCC(C1=CC=C(C=C1)C)O | C10H15NO
